US08058276B2
6-(2-Methylamino-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
50 mg (0.115 mMol) 6-(2-chloro-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide are dissolved in 5 ml THF. Then 250 μl methylamine (2 M in THF; 0.50 mMol) are added and the solution is stirred in a sealed tube for 20 h. The mixture is diluted with water and EtOAc, the aq. layer separated off and extracted with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (reversed phase; Gilson) gives the title compound: MS: [M+1]+=430; HPLC: tRet=14.0.

reactant | 6-(2-chloro-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.115 mMol, 50 mg | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)OC2=NC(=NC=C2)Cl)(F)F | C19H10ClF3N4O3
reactant | methylamine | 0.50 mMol, 2 M, 250 μl | CN | CH5N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-Methylamino-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)OC2=NC(=NC=C2)NC)(F)F | C20H14F3N5O3
